* g:\esimworkplace\hack\hack.cir

.include "G:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "G:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "G:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.lib "G:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "G:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "G:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "G:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
* s c m o d e
xsc2 net-_sc1-pad1_ a gnd gnd sky130_fd_pr__nfet_01v8 w = 2.26 l = 1.55 nf=1
xsc1 net-_sc1-pad1_ a net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w = 2.26 l = 1.55 nf=1
xsc3 carry a net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w = 2.26 l = 1.55 nf=1
xsc5 sum c a net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 w = 2.26 l = 1.55 nf=1
xsc4 carry a c gnd sky130_fd_pr__nfet_01v8 w = 2.26 l = 1.55 nf=1
xsc6 sum c net-_sc1-pad1_ gnd sky130_fd_pr__nfet_01v8 w = 2.26 l = 1.55 nf=1
v1  a gnd pulse(0 3.3 0.000000002 0.000000002 0.000000002 0.0002 0.0004)
v2  c gnd pulse(0 3.3 0.000000002 0.000000002 0.000000002 0.0001 0.0002)
* u1  a plot_v1
* u2  c plot_v1
* u4  sum plot_v1
* u3  carry plot_v1
v3 net-_sc1-pad3_ gnd  dc 3.3
xsc7 sum gnd sky130_fd_pr__cap_mim_m3_1 c = 0.0000001
.tran 80e-06 800e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(c)
plot v(sum)
plot v(carry)
.endc
.end
